US07737141B2
Synthesis of [(3S,5R)-5-(3,4,5-trifluorophenyl)morpholin-3-yl]methanol
A 4 N hydrochloric acid-ethyl acetate solution (30 mL) was added to an ethyl acetate solution (30 mL) of {(S)-1-benzyloxymethyl-2-[2-oxo-2-(3,4,5-trifluorophenyl)ethoxy]ethyl}carbamic acid tert-butyl ester (3.55 g) at room temperature. The resulting reaction solution was stirred at room temperature for 1 hr and then concentrated under reduced pressure. To a methanol solution (50 mL) of the obtained residue, 10% palladium-carbon (containing 50% water, 167 mg) was added. The resulting reaction solution was stirred in hydrogen atmosphere at room temperature for 18 hr, and the palladium carbon in the reaction solution was removed by filtration. The filtrate was concentrated under reduced pressure, and a saturated sodium hydrogencarbonate aqueous solution and ethyl acetate were added thereto. The organic layer was separated, washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluting solvent: heptane-ethyl acetate system) to give 1.52 g of the title compound. The physical property values of this compound were as follows:

reactant | hydrochloric acid ethyl acetate | 4 N, 30 mL | Cl.C(C)(=O)OCC
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
reactant | {(S)-1-benzyloxymethyl-2-[2-oxo-2-(3,4,5-trifluorophenyl)ethoxy]ethyl}carbamic acid tert-butyl ester | 3.55 g | C(C)(C)(C)OC(N[C@H](COCC(C1=CC(=C(C(=C1)F)F)F)=O)COCC1=CC=CC=C1)=O | C23H26F3NO5
solvent | hydrogen | [H][H] | H2
product | [(3S,5R)-5-(3,4,5-trifluorophenyl)morpholin-3-yl]methanol | 1.52 g | FC=1C=C(C=C(C1F)F)[C@@H]1COC[C@@H](N1)CO | C11H12F3NO2
